US08349880B2
Step AW (1): 2-(4-(2,2,2-Trifluoroethoxy)phenyl)acetic acid (6.00 g, 25.6 mmol, reference: D. Page, et al. Bioorganic Med. Chem. Lett. (2008), 18, 3695) was deprotonated with NaHMDS (2.0 M in THF, 38.4 mL, 77 mmol) and reacted with 1-chloro-4-iodobutane (8.40 g, 38.4 mmol) using a procedure analogous to Step AC (1) to afford 6-chloro-2-(4-(2,2,2-trifluoroethoxy)phenyl)hexanoic acid (4.32 g, 13.3 mmo, 52% yield) as a clear viscous oil that eventually formed a waxy solid. LC-MS (M−H)− 323.1. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.24-7.27 (m, 2 H), 6.90 (d, J=8.5 Hz, 2 H), 4.32 (q, J=7.9 Hz, 2 H), 3.45-3.56 (m, 3 H), 2.00-2.12 (m, 1 H), 1.71-1.83 (m, 3 H), 1.29-1.49 (m, 2 H).

reactant | 2-(4-(2,2,2-Trifluoroethoxy)phenyl)acetic acid | 25.6 mmol, 6.00 g | FC(COC1=CC=C(C=C1)CC(=O)O)(F)F | C10H9F3O3
reactant | NaHMDS | 77 mmol, 2.0 M, 38.4 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-4-iodobutane | 38.4 mmol, 8.40 g | ClCCCCI | C4H8ClI
product | 6-chloro-2-(4-(2,2,2-trifluoroethoxy)phenyl)hexanoic acid | 4.32 g, 52% yield | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC(F)(F)F | C14H16ClF3O3
